US04404214
1.45 g of 3-methoxy-2-pyridinecarboxylic acid, 30 ml of thionyl chloride and 0.95 g of 5-aminotetrazole are treated in the same manner as described in Example 1. The crude product thus obtained is recrystallized from a mixture of dimethylformamide and water, whereby 0.18 g of N-(5-tetrazolyl)-3-methoxy-2-pyridinecarboxamide is obtained.

reactant | 3-methoxy-2-pyridinecarboxylic acid | 1.45 g | COC=1C(=NC=CC1)C(=O)O | C7H7NO3
reactant | 5-aminotetrazole | 0.95 g | NC1=NN=NN1 | CH3N5
solvent | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
product | N-(5-tetrazolyl)-3-methoxy-2-pyridinecarboxamide | 0.18 g | N1N=NN=C1NC(=O)C1=NC=CC=C1OC | C8H8N6O2
